US06399629B1
(E) (2R)-4-Benzyl-1-(trans-4-Glycylamino-D-Prolyl)-2-Phenethylpiperazine Trihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (5 mL) was added to a solution of (2R)-4-Benzyl-1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-D-Prolyl]-2-Phenethylpiperazine (D, 161 mg) in 1,4-dioxane (5 mL) at room temperature. After stirring at room temperature for 20 min, the reaction mixture was concentrated in vacua. The residue was washed with ether to give the titled compound (103 mg) as a beige powder: 1H NMR (400 MHz, D2O) δ 2.00 (m, 2H), 2.19 (m, 1H), 2.41 (quintet, J=7.3 Hz, 1H), 2.58 (m, 1H), 2.71 (m, 2H), 3.18 (t, J=11.7 Hz, 1H), 3.27 (m, 1H), 3.37 (m, 1H), 3.46 (m, 1H), 3.63 (m, 2H), 3.77-3.93 (m, 2H), 3.85 (s, 2H), 4.33-4.49 (m, 3H), 4.58 (m, 1H), 7.24 (t, J=6.8 Hz, 2H), 7.30 (t, J=6.8 Hz, 1H), 7.36 (m, 2H), and 7.48-7.58 (m, 5H).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | (2R)-4-Benzyl-1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-D-Prolyl]-2-Phenethylpiperazine | 161 mg | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C([C@@H]1N(C[C@H](C1)NC(CNC(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CCC1=CC=CC=C1 | C36H51N5O6
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (2R)-4-Benzyl-1-(trans-4-Glycylamino-D-Prolyl)-2-Phenethylpiperazine Trihydrochloride | 103 mg | Cl.Cl.Cl.C(C1=CC=CC=C1)N1C[C@H](N(CC1)C([C@@H]1NC[C@H](C1)NC(CN)=O)=O)CCC1=CC=CC=C1 | InChI=1S/C26H35N5O2.3ClH/c27-16-25(32)29-22-15-24(28-17-22)26(33)31-14-13-30(18-21-9-5-2-6-10-21)19-23(31)12-11-20-7-3-1-4-8-20;;;/h1-10,22-24,28H,11-19,27H2,(H,29,32);3*1H/t22-,23+,24+;;;/m0.../s1
